US07659268B2
To a solution of 6-bromo-5-nitropyridin-2-amine (1.4 g, 10 mmol), Et3N (2.0 g, 20 mol) and DMAP (70 mg) in CH2Cl2 (20 mL) was added ClCO2Me (1.3 g, 10 mmol) drop-wise at 0° C. The mixture was stirred overnight. The reaction mixture was diluted with water and extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give methyl 6-bromo-5-nitropyridin-2-ylcarbamate (1.4 g, 82%). 1H NMR (400 MHz, DMSO) δ 10.78 (brs, 1H), 8.56 (d, J=9.2 Hz, 1H), 8.05 (d, J=8.4 Hz, 1H), 3.70 (s, 3H).

reactant | 6-bromo-5-nitropyridin-2-amine | 10 mmol, 1.4 g | BrC1=C(C=CC(=N1)N)[N+](=O)[O-] | C5H4BrN3O2
reactant | Et3N | 20 mol, 2.0 g | CCN(CC)CC | C6H15N
reactant | ClCO2Me | 10 mmol, 1.3 g | ClC(=O)OC | C2H3ClO2
catalyst | DMAP | 70 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | methyl 6-bromo-5-nitropyridin-2-ylcarbamate | 1.4 g, 82% | BrC1=C(C=CC(=N1)NC(OC)=O)[N+](=O)[O-] | C7H6BrN3O4
